US06559145B2
Ethyl 4-Methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]thiazolo[5,4-b]pyridine-6-carboxylate [BM.7]
A mixture of Eaton's Reagent (1.5 mL) and diethyl 2-((methyl(2-(morpholin-4-yl-methyl)-1,3-thiazol-5-yl)amino)methylene)malonate (Preparation 29, 452 mg) is heated to 110° C. for 20 min. with a stream of nitrogen over the reaction. The mixture is cooled to ambient temperature and transferred to a cooled beaker. The solution is diluted with ice chips and neutralized by dropping Na2CO3 into the solution. The mixture is then extracted with CH2Cl2 (3×50 mL), the organic layer dried (MgSO4), and the solvent is removed. The residue is purified by column chromatography (eluent 5% MeOH/CH2Cl2) to afford 11 mg (28%) of the title compound as a brown solid. Physical characteristics: 1H NMR (CDCl3) δ 1.39, 2.67, 3.77, 3.89, 3.90, 4.38, 8.25; IR (diffuse reflectance) 1726, 1716, 1679, 1632, 1614, 1609, 1586, 1507, 1330, 1300, 1236, 1194, 1113, 863, 801 cm−1. Anal. Found (C15H19N3O4S.0.75 H2O): C, 51.34; H, 5.94; N, 11.88.

reactant | Eaton's Reagent | 1.5 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | diethyl 2-((methyl(2-(morpholin-4-yl-methyl)-1,3-thiazol-5-yl)amino)methylene)malonate | 452 mg | CN(C1=CN=C(S1)CN1CCOCC1)C=C(C(=O)OCC)C(=O)OCC | C17H25N3O5S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | Ethyl 4-Methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]thiazolo[5,4-b]pyridine-6-carboxylate | 11 mg, 28% | CN1C2=C(C(C(=C1)C(=O)OCC)=O)N=C(S2)CN2CCOCC2 | C15H19N3O4S
